US05066795
Under ice cooling, 3.57g (14.5 mmol) of m-chloroperbenzoic acid was added little by little to a solution of 8.76 g (14.5 mmol) of 2-(perfluorooctylthio)biphenyl in 50 ml of methylene chloride with stirring. The mixture was stirred overnight at room temperature. The precipitate in the reaction mixture was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography using hexane as an eluent to give 8.97 g (100%) of 2-(perfluorooctylsulfinyl)biphenyl as while crystals. The properties of the product were as shown below.

reactant | m-chloroperbenzoic acid | 14.5 mmol, 3.57g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-(perfluorooctylthio)biphenyl | 14.5 mmol, 8.76 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(SC1=C(C=CC=C1)C1=CC=CC=C1)F | C20H9F17S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(perfluorooctylsulfinyl)biphenyl | 8.97 g, 100% | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)C1=C(C=CC=C1)C1=CC=CC=C1)F | C20H9F17OS
